US05051508
1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline (0.62 g, 2 mmol), sodium methoxide (1.0 g, 18.5 mmol) and methanol (30 ml)were heated to 170° C. in a pressure vessel for 18 hours, then the solvent evaporated in vacuo. Conversion to free base, chromatography (silica gel. 40:60 dichloromethane/petroleum ether) and recrystallisation from methanol yielded 1-(2-methylphenyl)-4-methoxy-6-methyl-2,3-dihydropyrrolo- [3,2-c]quinoline(0.30 g), m.p. 107°-108°.

reactant | 1-(2-Methylphenyl)-4-chloro-6-methyl-2,3-dihydropyrrolo[3,2-c]quinoline | 2 mmol, 0.62 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)Cl | C19H17ClN2
reactant | sodium methoxide | 18.5 mmol, 1.0 g | C[O-].[Na+]
solvent | methanol | 30 ml | CO | CH4O
product | 1-(2-methylphenyl)-4-methoxy-6-methyl-2,3-dihydropyrrolo- [3,2-c]quinoline | 0.30 g | CC1=C(C=CC=C1)N1CCC=2C(=NC=3C(=CC=CC3C21)C)OC | C20H20N2O
